US05397504
A reaction vessel was charged with 230 g of 4-hydroxy-4'-acetylbiphenyl, 164 g of ethyl bromide, 276 g of potassium carbonate and 1.7 l of cyclohexanone. The mixture was reacted together under agitation for 3 hours at 65°-70° C. and then for 6 hours at 95°-100° C. The reaction liquid was filtered and the resultant solid matter was washed with benzene. The filtrate and the washing liquid were combined, washed with water and dried over Glauber's salt, The solvents were distilled off and the residue was recrystallized from a mixed solvent of acetone-methanol to obtain 4-ethoxy-4'-acetylbiphenyl.

reactant | 4-hydroxy-4'-acetylbiphenyl | 230 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C14H12O2
reactant | ethyl bromide | 164 g | C(C)Br | C2H5Br
reactant | potassium carbonate | 276 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexanone | 1.7 l | C1(CCCCC1)=O | C6H10O
product | 4-ethoxy-4'-acetylbiphenyl | C(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C16H16O2
